US07470738B2
740 Grams of a mixed solvent of ethanol/water/methyl salicylate=60/30/10 was added to 100 g of a polymer solution (polymer concentration: about 42%) substituted with imidazolinium cations obtained as in Example 4, to dissolve the polymer, to obtain a solution having the polymer concentration of 5%. To 100 g of this mixed solution was added 0.5 g of the aforementioned polyglycerolpolyglycidyl ether (described-above) used in Example 4, this was placed into a 100 ml sample bottle, the sample bottle was sealed, the bottle was heated for 1 hour in a constant temperature bath at 70° C. to gelate the material, to obtain the integrated gelated-type patch material (RC1) of the present invention with methyl salicylate-based percutaneous absorption drug absorbed therein.

reactant | ethanol water methyl salicylate | C(C)O.O.C(C=1C(O)=CC=CC1)(=O)OC
reactant | imidazolinium | [NH2+]1C=NCC1
solvent | ether | CCOCC | C4H10O
product | methyl salicylate | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
